US09260414B2
Potassium carbonate (470 mg, 3.4 mmol) was added to a solution of [(S)-2-methyl-1-((S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (340 mg, 0.68 mmol) and (2S,5R)-4-[5-(4-bromo-2-fluoro-5-trifluoromethoxy-phenylcarbamoyl)-pyridin-2-yl]-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (400 mg, 0.68 mmol; Preparation 49) dissolved in toluene (2.5 mL) and water (0.73 mL). The reaction mixture was sparged under nitrogen. Tetrakis(triphenylphosphine)palladium(0) (94 mg, 0.081 mmol) was added and the reaction mixture was sparged with nitrogen and heated at 100° C. for 4 h. The reaction mixture was diluted in ethyl acetate and washed with water and brine. The organic layer was dried over sodium sulfate, filtered, and concentrated to produce (2S,5R)-4-[5-(5-fluoro-4′-{2-[(S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-ylcarbamoyl)-pyridin-2-yl]-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester as a red solid.

reactant | Potassium carbonate | 3.4 mmol, 470 mg | C([O-])([O-])=O.[K+].[K+]
reactant | [(S)-2-methyl-1-((S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.68 mmol, 340 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
reactant | (2S,5R)-4-[5-(4-bromo-2-fluoro-5-trifluoromethoxy-phenylcarbamoyl)-pyridin-2-yl]-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.68 mmol, 400 mg | C(C)(C)(C)OC(=O)N1[C@H](CN([C@@H](C1)C)C1=NC=C(C=C1)C(NC1=C(C=C(C(=C1)OC(F)(F)F)Br)F)=O)C | C24H27BrF4N4O4
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.73 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.081 mmol, 94 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2S,5R)-4-[5-(5-fluoro-4′-{2-[(S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-ylcarbamoyl)-pyridin-2-yl]-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN([C@@H](C1)C)C1=NC=C(C=C1)C(NC1=CC(=C(C=C1F)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(CCC1)C([C@H](C(C)C)NC(=O)OC)=O)OC(F)(F)F)=O)C | C44H52F4N8O7
